US06936602B1
In toluene (15 ml), ethanol (1.5 ml) and water (1.5 ml) were suspended 7-bromo-1-(3-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid (320 mg), 4-butoxyethoxyphenyl borate (246 mg) and potassium carbonate (285 mg), and the suspension was stirred under argon atmosphere for 30 minutes. Then, to the suspension was added tetrakistriphenylphosphinepalladium (64 mg), and the mixture was heated at 100° C. for 8 hours under argon atmosphere. After allowing to cool, water was added to the mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane:ethyl acetate=5:1) to give methyl 7-(4-butoxyethoxyphenyl)-1-(3-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid (207 mg) as yellow oil.

reactant | ethanol | 1.5 ml | C(C)O | C2H6O
reactant | 7-bromo-1-(3-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid | 320 mg | BrC=1C=CC2=C(C=C(CCN2CC2=CC(=CC=C2)OC)C(=O)O)C1 | C19H18BrNO3
reactant | 4-butoxyethoxyphenyl borate | 246 mg | B(OC1=CC=C(C=C1)OCCOCCCC)([O-])[O-]
reactant | potassium carbonate | 285 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakistriphenylphosphinepalladium | 64 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 1.5 ml | O | H2O
product | methyl 7-(4-butoxyethoxyphenyl)-1-(3-methoxybenzyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid | 207 mg | CC1N(C2=C(C=C(C1)C(=O)O)C=C(C=C2)C2=CC=C(C=C2)OCCOCCCC)CC2=CC(=CC=C2)OC | C32H37NO5
